US07704995B2
N-{3-[5-amino-6-(5-benzyl-4H-1,2,4-triazole-3-yl) pyrazin-2-yl]benzyl}-2,4-dinitro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]benzene sulfonamide:
Triphenylphosphine (47 mg, 0.17 mmol) was added to a stirred solution of {3-[5-amino-6-(5-phenyl-4H-1,2,4-triazol-3-yl) pyrazine-2-yl]phenyl}methanol (50 mg, 0.14 mmol) and N-[(1S)-2,3-dihydro-1H-inden-1-yl]-2,4-dinitrobenzen sulfonamide (60 mg, 0.16 mmol) in THF. Diethyl azodicarboxylate (31 mg, 0.17 mmol) was then added and mixture was stirred at ambient temperature 4 h. Ethyl acetate (20 mL) was added, and the organic layer was washed with saturated aqueous sodium chloride, and then dried (Na2SO4). Filtration and concentration followed by chromatography on silica gel afforded the title compound: MS (EI) for C35H29N9O6S: 704 (MH+).

reactant | Triphenylphosphine | 0.17 mmol, 47 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | {3-[5-amino-6-(5-phenyl-4H-1,2,4-triazol-3-yl) pyrazine-2-yl]phenyl}methanol | 0.14 mmol, 50 mg | NC=1N=CC(=NC1C1=NN=C(N1)C1=CC=CC=C1)C=1C=C(C=CC1)CO | C19H16N6O
reactant | N-[(1S)-2,3-dihydro-1H-inden-1-yl]-2,4-dinitrobenzen sulfonamide | 0.16 mmol, 60 mg | [C@@H]1(CCC2=CC=CC=C12)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C15H13N3O6S
reactant | Diethyl azodicarboxylate | 0.17 mmol, 31 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
solvent | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-{3-[5-amino-6-(5-benzyl-4H-1,2,4-triazole-3-yl) pyrazin-2-yl]benzyl}-2,4-dinitro-N-[(1S)-2,3-dihydro-1H-inden-1-yl]benzene sulfonamide | NC=1N=CC(=NC1C1=NN=C(N1)CC1=CC=CC=C1)C=1C=C(CN(S(=O)(=O)C2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])[C@H]2CCC3=CC=CC=C23)C=CC1 | C35H29N9O6S
